US04801593
Lithium aluminium hydride (19 g,) was suspended in dry ether (300 ml) and 3-chlorophenylacetic acid (58 g,) in dry ether (600 ml) was added dropwise to the stirred suspension over 1 hr. The mixture was then heated at reflux for 2 hr. when tlc indicated completion of reaction. Excess lithum aluminium hydride was carefully decomposed with water (500 ml). The ether layer was separated off and 2M hydrochloric acid was used to break up the gelatinous aqueous layer which was then extracted with ether (2×400 ml). The combined ether layers were washed with water (300 ml), dried (sodium sulphate) and evaporated in vacuo to give 2-(3-chlorophenyl)ethanol as a pale yellow oil (53.1 g) characterised by its nmr spectrum.

reactant | Lithium aluminium hydride | 19 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-chlorophenylacetic acid | 58 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | water | 500 ml | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
product | 2-(3-chlorophenyl)ethanol | 53.1 g | ClC=1C=C(C=CC1)CCO | C8H9ClO
